US05278161
In a manner analogous to Example 1, by condensing 2-hydrazino-3-isobutyl-5-(3-pyridyl)pyrazine with diethyl malonate there is obtained ethyl 8-isobutyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 339 (M)+, which is converted by saponification into the above acid: MS 267 (M-CO2)+.

reactant | 2-hydrazino-3-isobutyl-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1CC(C)C)C=1C=NC=CC1 | C13H17N5
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | ethyl 8-isobutyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | C(C(C)C)C=1C=2N(C=C(N1)C=1C=NC=CC1)C(=NN2)CC(=O)OCC | C18H21N5O2
